US06677352B1
A mixture of 3,3-dianilino-1-(2,4-dichloro-6-methyl-3-pyridinyl)-2-propen-1-one (100 mg, 0.25 mmol) and t-BuOK (42 mg, 0.38 mmol) in anhydrous dioxane (4 mL) was heated to 80° C. for 4 h. The solvent was removed in vacuo and the residue was dissolved in EtOAc. The solution was washed with water and brine, dried over MgSO4, and concentrated in vacuo. Silica gel flash chromatography of the residue using 1:1 EtOAc:Hex gave 2-anilino-5-chloro-7-methyl-1-phenyl-1,8-naphthyridin-4(1H)-one (13 mg, 14%): LCMS RT: 2.47 min, MH+: 362.6. 2-anilino-5-chloro-7-methyl-1-phenyl-1,6-naphthyridin-4(1H)-one was also isolated (68 mg, 75%): LCMS RT: 2.24 min, MH+: 362.6. This transformation can be accomplished by using the combination of other aprotic solvents such as DMF and THF with other bases such as NaH.

reactant | 3,3-dianilino-1-(2,4-dichloro-6-methyl-3-pyridinyl)-2-propen-1-one | 0.25 mmol, 100 mg | N(C1=CC=CC=C1)C(=CC(=O)C=1C(=NC(=CC1Cl)C)Cl)NC1=CC=CC=C1 | C21H17Cl2N3O
reactant | t-BuOK | 0.38 mmol, 42 mg | CC(C)(C)[O-].[K+]
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 2-anilino-5-chloro-7-methyl-1-phenyl-1,8-naphthyridin-4(1H)-one | 13 mg, 14% | N(C1=CC=CC=C1)C=1N(C2=NC(=CC(=C2C(C1)=O)Cl)C)C1=CC=CC=C1 | C21H16ClN3O
